US06465467B1
Step 1: 1-(3-Chloro-2-pyrazinyl)-4-methylpiperazine.
A mixture of 2,3-dichloropyrazine (10.1 g, 68 mmol) and N-methylpiperazine (10.15 g, 100 mmol) in acetonitrile (250 mL) was stirred at room temperature for 60 h. The solvent was removed under reduced pressure and the residue was taken up in CHCl3/brine. The dried (MgSO4) organic layer was concentrated and the remaining oil was purified by chromatography on silica gel using CHCl3/MeOH (95:5) as eluent to give 10.7 g (75%) of the title compound as an oil that crystallized upon standing: mp 34-36° C. Anal. (C9H13ClN4) C, H, N.

reactant | 2,3-dichloropyrazine | 68 mmol, 10.1 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | N-methylpiperazine | 100 mmol, 10.15 g | CN1CCNCC1 | C5H12N2
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 1-(3-Chloro-2-pyrazinyl)-4-methylpiperazine | 10.7 g, 75% | ClC=1C(=NC=CN1)N1CCN(CC1)C | C9H13ClN4
